US07737149B2
A 2M solution of trimethylaluminium in toluene (6.25 mL, 12.50 mmol) was added dropwise to a stirred solution of and 1-tert-butyl-3-(3-methoxyphenethyl)-1H-pyrazol-5-amine (1.367 g, 5.00 mmol) and ethyl 4-(piperazin-1-yl)benzoate (1.171 g, 5 mmol) in toluene (20 mL) at 4° C., over a period of 5 mins under nitrogen. The resulting solution was stirred at 20° C. for 18 h. The reaction mixture was quenched with methanol (20 mL), filtered and evaporated to afford tan solid. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in DCM and 0.1% ammonia. Pure fractions were evaporated to dryness to afford N-(1-tert-butyl-3-(3-methoxyphenethyl)-1H-pyrazol-5-yl)-4-(piperazin-1-yl)benzamide (0.520 g, 22.53%) as a white solid.

reactant | trimethylaluminium | C[Al](C)C
reactant | 1-tert-butyl-3-(3-methoxyphenethyl)-1H-pyrazol-5-amine | 5.00 mmol, 1.367 g | C(C)(C)(C)N1N=C(C=C1N)CCC1=CC(=CC=C1)OC | C16H23N3O
reactant | ethyl 4-(piperazin-1-yl)benzoate | 5 mmol, 1.171 g | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12.50 mmol, 6.25 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1-tert-butyl-3-(3-methoxyphenethyl)-1H-pyrazol-5-yl)-4-(piperazin-1-yl)benzamide | 0.520 g, 22.53% | C(C)(C)(C)N1N=C(C=C1NC(C1=CC=C(C=C1)N1CCNCC1)=O)CCC1=CC(=CC=C1)OC | C27H35N5O2
